US09120744B2
N-octyl-3,4-dimethoxybenzenesulfonamide.
To a solution of 3,4-dimethoxybenzenesulfonyl chloride (0.750 g, 3.17 mmol), triethylamine (1.12 mL, 7.93 mmol) in 10 mL of ethyl acetate, octylamine (0.525 mL, 3.17 mmol) was added dropwise and the resulting solution was stirred overnight. The reaction mixture was filtered and the filtrate was washed 1N HCl (2×), dried with MgSO4, filtered and concentrated in vacuo to afford 0.611 g (78%) of the title compound as a white solid.

reactant | 3,4-dimethoxybenzenesulfonyl chloride | 3.17 mmol, 0.750 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | triethylamine | 7.93 mmol, 1.12 mL | C(C)N(CC)CC | C6H15N
reactant | octylamine | 3.17 mmol, 0.525 mL | C(CCCCCCC)N | C8H19N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-octyl-3,4-dimethoxybenzenesulfonamide | 0.611 g, 78% | C(CCCCCCC)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC | C16H27NO4S
